US04957928
First 5.55 g (25 mmol) of 1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrobromide (guvacoline hydrobromide) and then 11.31 g (87.5 mmol) of N-ethyl-N,N-diisopropyl-amine are added to a solution of 9 g (25 mmol) of 2,2-dimethyl-3-[2-(4-toluenesulfonyloxy)ethyl]-chroman in 100 ml of N,N-dimethylformamide. The solution is stirred for 15 hours at 60° and then concentrated by evaporation under a high vacuum. Water is added to the residue and extraction is carried out with diethyl ether. The combined organic phases are washed with water and extracted with 2N hydrochloric acid. The combined hydrochloric acid extracts are rendered alkaline with sodium hydroxide solution (30%) while cooling and extracted with dichloromethane. The combined dichloromethane phases are dried over sodium sulfate and concentrated by evaporation in vacuo, yielding 5.52 g (67% of the theoretical yield) of 1-[2-(2,2-dimethylchroman-3-yl)-ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester in the form of a light-yellow oil. 1-[2-(2,2-dimethylchroman-3-yl)-ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride, prepared therefrom with hydrochloric acid in diethyl ether, crystallises from methanol/diethyl ether and melts at 196°-197°.

reactant | 1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrobromide | 25 mmol, 5.55 g | Br.COC(=O)C=1CNCCC1
reactant | N-ethyl-N,N-diisopropyl-amine | 87.5 mmol, 11.31 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,2-dimethyl-3-[2-(4-toluenesulfonyloxy)ethyl]-chroman | 25 mmol, 9 g | CC1(OC2=CC=CC=C2CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C20H24O4S
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2,2-dimethylchroman-3-yl)-ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCC1C(OC2=CC=CC=C2C1)(C)C | C20H27NO3
